US05356886
A mixture of (Z)-9-[4-(diethoxyphosphoryl)but-3-enyloxy]-6-phthalimidopurine (305 mg, 647 mmol) and methylhydrazine (31.3 mg, 679 μmol) in ethanol (7 ml) was stirred at room temperature for 1.5 hr. The solvent was removed and the residue was purified by column chromatography on silica gel eluting with dichloromethane-methanol (19:1, 9:1) to afford (Z)-9-[4-(diethoxyphosphoryl)but-3-enyloxy]adenine as a colourless gum (177 mg, 80%); λmax (EtOH) 260 (13,045) nm; υmax (KBr) 3320, 3175, 2980, 1645, 1595, 1325, 1295 and 1240 cm-1 ; δH [(CD3)2SO] 1.22 (6H, t, J 7 Hz, CH3), 2.95 (2H, m, CH2), 3.97 (4H, pseudo qu, J 7 Hz, CH2CH3), 4.46 (2H, t, CH2O ), 5.85 (1H, dd, J 14 Hz and 20 Hz, PCH=CH), 6.65 (1H, ddt, J 7 Hz, 14 Hz and 52Hz, PCH=CH), 7.38 (2H, br.s, NH2), 8.15 (1H, s, H-2/H-8), 8.41 (1H, s, H-2/H-8) (Found: C, 45.30; H, 5.92; N, 20.17%; M+ 341.1253. C13H20N5O4P. 0.3H2O requires C, 45.03; H, 5.96; N, 20.20%; M+ 341.1253).

reactant | (Z)-9-[4-(diethoxyphosphoryl)but-3-enyloxy]-6-phthalimidopurine | 647 mmol, 305 mg | C(C)OP(=O)(OCC)\C=C/CCON1C2=NC=NC(=C2N=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C21H22N5O6P
reactant | methylhydrazine | 679 μmol, 31.3 mg | CNN | CH6N2
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | (Z)-9-[4-(diethoxyphosphoryl)but-3-enyloxy]adenine | 177 mg, 80% | C(C)OP(=O)(OCC)\C=C/CCON1C2=NC=NC(=C2N=C1)N | C13H20N5O4P
